US09169254B2
Acetic acid (0.275 ml, 4.8 mmol) was added to a solution of 2-methylsulfanyl-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester (72 mg, 0.24 mmol) and m-trifluoromethylaniline (0.150 ml, 1.2 mmol) in DMA (1.0 ml), and the mixture was irradiated with microwaves at 150° C. for 20 minutes. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layers were combined, washed with saturated brine and dried over magnesium sulfate, and the solvent was then distilled off. The residue was purified by silica gel column chromatography to give 4-oxo-2-(3-trifluoromethyl-phenylamino)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester (50 mg, 51%).

reactant | Acetic acid | 4.8 mmol, 0.275 ml | C(C)(=O)O | C2H4O2
reactant | 2-methylsulfanyl-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | 0.24 mmol, 72 mg | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)SC)=O)CC1 | C13H21N3O3S
reactant | m-trifluoromethylaniline | 1.2 mmol, 0.150 ml | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMA | 1.0 ml | CC(=O)N(C)C | C4H9NO
product | 4-oxo-2-(3-trifluoromethyl-phenylamino)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | 50 mg, 51% | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)NC2=CC(=CC=C2)C(F)(F)F)=O)CC1 | C19H23F3N4O3
